US06784192B2
Ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl]-4-piperidyl]acetate
2.6 g of ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl)hexahydro-4-pyridinylidene]acetate and 380 mg of 10% palladium-carbon powder (water-containing product) were suspended in 20 ml of ethyl acetate. After replacing the atmosphere of a container with hydrogen, the mixture was stirred at room temperature under normal pressure for one hour. The reaction solution was filtered, and the filtrate was evaporated, to give the title compound as a yellow oil (quantitatively).

reactant | ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl)hexahydro-4-pyridinylidene]acetate | 2.6 g | COC1=NC=CC=C1CN1CCC(CC1)=CC(=O)OCC | C16H22N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 380 mg | [C].[Pd]
product | Ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl]-4-piperidyl]acetate | COC1=NC=CC=C1CN1CCC(CC1)CC(=O)OCC | C16H24N2O3
